US05258399
Sodium hydride (79 mg, 50% dispersion in mineral oil, 1.65 mmol) was added to a solution of N-(6-chloropyrid-3-yl)-N-methyl-methanesulphonamide (0.33 g) and 4-(3-mercaptophenyl)-4-methoxytetrahydropyran (0.34 g) in DMF (10 ml). The mixture was stirred at ambient temperature for 15 minutes and heated at 140° C. for 1.5 hours. After cooling, it was partitioned between water (75 ml) and ethyl acetate (75 ml). The organic phase was washed with brine (50 ml), dried (MgSO4) and the solvent evaporated. The product was purified by column chromatography to give N-(6-[3-(4-methoxytetrahydropyran-4-yl)phenylthio]pyrid-3-yl}-N-methylmethanesulphonamide as a gum (0.25 g, 41%).

reactant | Sodium hydride | 1.65 mmol, 79 mg | [H-].[Na+]
reactant | N-(6-chloropyrid-3-yl)-N-methyl-methanesulphonamide | 0.33 g | ClC1=CC=C(C=N1)N(S(=O)(=O)C)C | C7H9ClN2O2S
reactant | 4-(3-mercaptophenyl)-4-methoxytetrahydropyran | 0.34 g | SC=1C=C(C=CC1)C1(CCOCC1)OC | C12H16O2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(6-[3-(4-methoxytetrahydropyran-4-yl)phenylthio]pyrid-3-yl}-N-methylmethanesulphonamide | 0.25 g, 41% | COC1(CCOCC1)C=1C=C(C=CC1)SC1=CC=C(C=N1)N(S(=O)(=O)C)C | C19H24N2O4S2
